Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
metoprolol
 
Attending: ___.
 
Chief Complaint:
Tamponade
 
Major Surgical or Invasive Procedure:
Pericardial drain ___ - ___
Intubated ___
Temp HD line ___
Extubation ___
PA catheter ___ - ___
ICD lead revision ___
 
History of Present Illness:
___ w/ history of sinus brady and cardiac ischemia on stress 
test
(no cath), seizure disorder, admitted after recurrent syncopal
episodes. 

These syncopal episodes have been occurring for the past couple
wks. The first episode his sis described that the patient
reported waking up at the bottom of his stairs and was unsure 
how
he got there, he decided not to seek medical care. The day he 
was
admitted, his friend went to his house to check on him and his
friend found him on the floor. EMS was called and he was take to
___ on ___. 

At ___ he had a HR ~40BPM and developed paroxysmal Afib. A dual
chamber PPM was placed on ___ for his tachy-brady syndrome. 
His
sister reported that today he became gray, diaphoretic, and
confused. A rapid was called around 5pm, minimally responsive,
initial BP 78/40 with repeat of 60/palp, received 2.5L to SBPs 
in
___, HR in 100s, increasingly hypoxic placed on 5L NC, bedside
TTE demonstrated 1cm of pericardial fluid, new from TTE
pre-procedure, signs of early tamponade then transferred to 
___
for further management. He received at total of 4L NS prior to
transfer to ___. 
 
On arrival to the CCU, patient was tachycardic w/irregular 
rhythm
to the <120, hypotensive on levo, hypoxic on nonrebreather at
15L. A bedside echo was performed revealing a 1-1.5 cm
pericardial effusion. The interventional cardiologists were
notified and the patient was taken to the cath lab for a
pericardialcentesis and placement of a pericardial drain. 

ROS: Unable to assess due to poor MS.  
 
___ Medical History:
Cardiac History:
- CAD on stress test ___ (declined cath)
- Tachy-brady syndrome s/p dual chamber PPM ___

Other PMH:
- Seizure
- Gout
- Falls
 
Social History:
___
Family History:
No family hx of sudden death or early MI

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS:  Reviewed in METAVISION
GENERAL: Ill appearing man. AOx2 
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple. JVP unable to assess 
CARDIAC: Distant heart sounds Tachycardic, irregular regular
rhythm. No murmurs, rubs, or gallops.  
LUNGS: No chest wall deformities or tenderness. tachypnic  CTAB
in anterior lung fields.
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Cool. Some mottling on lower extremities. No
clubbing or peripheral edema.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable but thready and symmetric.  
NEURO: Moves all four. No focal deficits. 

DISCHARGE PHYSICAL EXAM:
=======================
VS: asystole with no measurable BP or RR
General: lying in bed, no spontaneous movements
HEENT: pupils nonreactive to light
CARDIAC: no heart sounds auscultated
LUNGS: no breath sounds auscultated
NEURO: no response to painful stimuli
 
Pertinent Results:
ADMISSION LABS:
==============
___ 12:05AM BLOOD WBC-8.3 RBC-3.03* Hgb-9.7* Hct-31.4* 
MCV-104* MCH-32.0 MCHC-30.9* RDW-13.3 RDWSD-51.3* Plt ___
___ 02:36PM BLOOD Neuts-77.5* Lymphs-10.0* Monos-11.8 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-9.63* AbsLymp-1.24 
AbsMono-1.46* AbsEos-0.00* AbsBaso-0.01
___ 12:05AM BLOOD ___ PTT-31.1 ___
___ 12:05AM BLOOD Glucose-179* UreaN-20 Creat-1.2 Na-140 
K-4.7 Cl-108 HCO3-17* AnGap-15
___ 12:05AM BLOOD ALT-210* AST-344* LD(LDH)-829* CK(CPK)-95 
AlkPhos-83 TotBili-0.5
___ 12:05AM BLOOD CK-MB-2 cTropnT-0.02*
___ 12:05AM BLOOD Calcium-7.7* Phos-5.5* Mg-1.8
___ 02:36PM BLOOD TSH-2.4
___ 02:36PM BLOOD Cortsol-86.6*
___ 09:15PM BLOOD Phenyto-11.2 Valproa-67
___ 10:38PM BLOOD Type-ART pO2-124* pCO2-26* pH-7.41 
calTCO2-17* Base XS--5 Intubat-NOT INTUBA
___ 10:38PM BLOOD Glucose-192* Lactate-3.0* Na-137 K-4.5 
Cl-110*

IMAGING:
========
___ CXR: IMPRESSION: Lungs are low volume with bibasilar 
atelectasis.  Small left pleural effusion stable.  Left-sided 
pacemaker leads project to the right atrium and right
ventricle.  Cardiomediastinal silhouette is stable.  No 
pneumothorax is seen. The pericardial drain remains in place.

___: CT HEAD/CHEST/ABD/PELVIS: 

HEAD: No acute intracranial abnormality.
CHEST: Bilateral small pleural effusions with associated 
subsegmental atelectasis.  No infectious process is seen within 
the chest.
ABD/PELVIS: 
1. Diffuse third spacing with small volume of ascites in the 
abdomen and
pelvis.  No organized collection or abscess formation noted.
2. Diffuse hazy mesentery nonspecific may be due to edema.
3. The bowel is normal in caliber with no evidence obstruction. 
Evaluation of
bowel ischemia is limited due to lack of contrast.  A large 
amount of stool is
seen within the rectum.
4. Cholelithiasis/sludge with gall bladder wall thickening 
likely due to
edema, on this patient with diffuse third-spacing.  Further 
evaluation for
acute cholecystitis with ultrasound could be obtained if the 
patient has
abnormal liver function tests and there is clinical suspicion 
for
cholecystitis.

___ KUB: IMPRESSION: No evidence of large volume 
pneumoperitoneum. Lines and tubes appear unchanged.

___ LENIS: No evidence of deep venous thrombosis in the 
right or left lower extremity veins.

___: CXR :In comparison with the study of ___, the 
tip of the Swan-Ganz catheter is difficult to identify given the 
multitude of tubes in wires.  however, a subsequent study showed 
the tip to be in the pulmonary outflow tract.

___: CXR: In comparison with study of earlier in this date, 
there is an placement of a left IJ hemodialysis catheter that is 
difficult to follow, but does not extend
below the lower SVC.  No evidence of post procedure 
pneumothorax.
Otherwise, little change.

___ TTE: IMPRESSION: EF 50% Subotpimal study: Mildly 
reduced biventricular systolic function with regional 
dysfunction, as per above. Mild to moderate aortic 
regurgitation. Mild to moderate tricuspid regurgitation. 
Borderline pulmonary hypertension. Very small, echodense 
pericardial effusion.

___ CXR: In comparison with study of ___, the 
monitoring and support devices are essentially unchanged.  There 
is slightly less hazy opacification at the
bases, though the hemidiaphragms are not optimally seen, 
especially on the left.  This could reflect some improvement in 
pleural effusions, though a similar pattern could merely be a 
manifestation of a more upright position of the patient.

___ CXR: Overall unchanged appearance of lines and tubes 
when compared to the prior radiograph. Minimal bibasilar linear 
atelectasis and small pleural effusions with stable 
cardiomegaly.

___ UENIS:  Superficial vein thromboses of the left basilic 
and cephalic veins as described above.

___ CXR: Interval placement of a right upper extremity 
PICC, which terminates at the cavoatrial junction. Otherwise, no 
significant interval change.

___ TTE: EF 50% Mildly reduced left ventricular systolic 
function. Preserved right ventricular systolic function. Trivial 
pericardial effusion. Left pleural effusion. The overall 
findings are similar, however due to the limited nature of the 
current study a comprehensive comparison of all previously 
measured parameters from ___ (images reviewed) could not be 
made.

___ CXR: IMPRESSION: 
1.  The nasogastric tube terminates in the proximal body of the 
stomach,
however the side-hole terminates at the gastroesophageal 
junction. 
Advancement by 5-10 cm is recommended.
2.  The right upper extremity PICC now appears to be within the 
right atrium,
although this may be secondary to differences in patient 
positioning.
3.  Left chest wall cardiac pacing devices with two leads 
terminating in the
regions of the right atrium and right ventricle.
4.  Small bilateral pleural effusions, which have decreased in 
size.

___ CXR:IMPRESSION: Appropriate AICD lead placement.  No 
pneumothorax.

___ EP revision:
Access retained using RV lead insulation to internalize 
micropuncture wire.
New RV and RA leads placed, and old RV/RA leads removed easily. 
TTE pre/post showed no effusion at either start or end of case. 
No complications.

___ CXR: Comparison to ___.  All monitoring and 
support devices with the exception of the right PICC line and of 
the left hemodialysis catheter have
been removed.  There is massive gastric over distension with 
elevation of the
left hemidiaphragm.  No other changes are noted.  In particular 
there is no
evidence of pneumothorax or pleural effusions.  Stable position 
of the pacemaker leads.

___ KUB: Gas distended stomach without evidence for small 
or large bowel
obstruction or ileus.

___ TTE: IMPRESSION: Low normal left ventricular systolic 
function. Normal right ventricular systolic function. Moderate 
tricuspid regurgitation with normal pulmonary artery pressure. 
Trivial/physiologic ammount of pericardial fluid. Mild to 
moderate aortic regurgitation.

___: CT A/P: 
1. New dilation of a few proximal small bowel loops which show 
air-fluid level and likely represent a paralytic ileus. 
2. No free peritoneal air or enteric contrast to suggest 
perforation. 
3. Mild to moderate amount of ascites and anasarca. 
4. Please refer to same day report for in the chest findings. 

___: CT brain: No acute intracranial abnormality.  Please 
note that MRI is more sensitive for the detection of 
encephalitis or meningitis. 

___: TTE: Suboptimal image quality/focused study. 
Trivial/physiologic amount of pericardial effusion without 
echocardiographic evidence of tamponade physiology but abnormal 
septal motion raises the possibility of early constrictive 
physiology. Normal left and right ventricular caivty sizes and 
global systolic function. Mild to moderate tricuspid 
regurgitation. Mild pulmonary artery systolic hypertension. Mild 
to moderate aortic regurgitation.

MICROBIOLOGY:
=============
ALL culture data NGTD
 
Brief Hospital Course:
CCU COURSE ___ - ___
___ with tachy-brady syndrome s/p dual chamber PPM ___ c/b 
pericardial effusion concern for tamponade iso hemodynamic 
instability.

#CORONARIES: CAD on stress test ___, no cath
#PUMP:  No formal ECHO on admission
#RHYTHM: Irregularly irregular  

ACUTE ISSUES:  
=============  
# Mixed Shock likely ___ cardiogenic RV failure and ?sepsis 
# Lactic acidosis
# Hyperkalemia RESOLVED
# Transaminitis IMPROVING
# Troponinemia Peak ___
# Tachy-___ syndrome s/p Dual chamber PPM ___ c/b tamponade 
s/pericardialcentesis w/ pericardial drain
Pt transferred from OSH with obstructive shock s/p dual chamber 
PPM ___ c/b pericardial effusion concern for tamponade and on 
levo. OSH fluid resuscitation with 4 L IVF.  Initial pulsus was 
20 w/ bedside TTE pericardial effusion 1-1.5cm and was 
immediately taken to cath lab for pericardialcentesis s/p 
pericardial drain placement. 290ml of fluid consistent with 
blood was removed. Repeat TTE revealed signs of RV strain with 
resolution of pericardial effusion and EF of 60%. Despite 
resolution of pericardial effusion, shock physiology continued 
with lactate peak of 14.4. Suspected etiologies now included 
cardiogenic ___ RV failure vs septic. PA# worsen with fluid 
resuscitation  and improved with inotropy w/dobutamine. Etiology 
of RV failure is unknown, possibilities include infarct or PE. 
Troponin is mildy elevated but could be ___ to demand and 
reduced renal clearance. PE possible but has not been extremely 
hypoxic, pt was intubated for AMS. Also demonstrated 
hypothermia/fever with increasing WBC, rising lactate and 
worsening MS which were very concerning for infection. However 
source unknown, no focal consolidation on CXR, CT w/bilateral 
pleural effusions. No abscesses on CT. Low urine output with 
foley in place. UA reassuring. No evidence of skin breakdown. No 
growth on cultures. Empiric abx of vanc/cefepime for 10d course. 
However on last day of course had an acute WBC rise so continued 
ABX. He improved clinically, lab abnormalities improved with 
lactate and potassium WNL and downtrending LFTs, BP stable off 
pressors and extubated. EP successfully completed a lead 
revision on ___ with old lead extraction and new lead 
placement. 

#Encephalopathy/hx seizures
On arrival pt AOx2, was conversational with confusion. Upon 
return from pericardialcentesis s/p pericardial drain had 
increased agitation, confusion, and intermittent rhythmic 
jerking of all four limbs with eyes rolled back these episodes 
<___ c/f breakthrough seizures iso delay of home AED 
administration as well as critical illness. Other possibilities 
included toxic/metabolic imbalance or CNS infection. 
Toxic/metabolic encephalopathy possible ___ to kidney and liver 
dysfunction. Regarding CNS infection empiric ampicillin and 
acyclovir were added to vanc/cefepime, however ampicillin and 
acyclovir were DC on ___. Regarding AED pt home meds included 
Phenytoin,
Divalproex, PrimiDONE these were stopped due to kidney and liver 
dysfunction, initially switched to vimpat then keppra. EEG was 
done and revealed no seizure activity while in CCU. LP was 
deferred due to risk of bleeding ___ coagulopathy. Pt was 
extubated after able to follow commands, MS improved but still 
waxing and waning. 

# Anuric ___
Cr on admission 1.2 with rapid increase. Became Anuric. Renal 
was consulted and CRRT was initiated until ___. Intermittent 
diuresis with lasix IV PRN w/improving UOP.  HD was started on 
___. 

#Coagulopathy
Acute increase in INR from 1.2 to 3.3, likely secondary to acute 
liver injury or possible infection.  s/p  Vit K 10mg IV 3 days. 
Fibrinogen has been >100. 

# Acute hypoxic respiratory failure - RESOLVED
Pt has new O2 requirement of 15L on arrival. Likely due to 
obstructive shock ___ tamponade. Also received 4L resuscitation, 
which may have led to pulmonary edema iso tamponade. Was 
intubated on ___ for airway protection for AMS and 
desaturations. Was extubated on ___. 

# Paroxysmal A fib: Pt developed pAF at OSH. Not currently on 
AC. CHAD2VAS: 2 for age. Was intermittently on heparin gtt for 
suspected PE/ACS iso RV failure. Heparin gtt was discontinued 
prior to PPM lead revision.Pt went into rapid Afib on ___, S/p 
Amio Load, now on po amio 400 BID for rhythm control Carvadilol 
was started for rate control. Plan was to start anticoagulation 
with warfarin vs NOAC pending renal improvement.

# CAD : Pt had a positive stress test in ___, however he 
declined a LHC. He is not on any home cardiac medications. 
Consider starting ASA 81, statin. 

#HTN
Started carvedilol 3.125mg BID ___. Systolics still 140s. 
Continue isordil 20 TID. Continue Hydral 20 TID. 

# Superficial vein thromboses of the left basilic and cephalic
veins: Was on Heparin gtt for systemic anticoagulation for AF 
already, however typically would not need to treat given the 
superficial nature of these. Continued to monitor.

====================
MICU COURSE: ___
Patient was admitted to the MICU after he developed hypotension 
following receipt of lorazepam in the setting of nonconvulsive 
status epilepticus. His course in the MICU was notable for 
persistent hypotension despite the use of 3 pressors and 
hydrocortisone. He was thought to be suffering from septic 
shock, but no source was identified. He also developed a 
paralytic ileus on ___. Given his increasing pressor 
requirement despite escalation of antibiotic and antifungal 
coverage, as well as his need for CRRT, his family decided 
initially to make him DNR and eventually transitioned him to 
comfort measures only. He died shortly after the transition to 
comfort measures, at 0205 on ___. The family requested an 
autopsy.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Phenytoin Sodium Extended 200 mg PO QHS 
4. Phenytoin Sodium Extended 300 mg PO QAM 
5. Divalproex (EXTended Release) 1000 mg PO BID 
6. PrimiDONE 250 mg PO DAILY 

 
Discharge Medications:
DECEASED
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
DECEASED
 
Discharge Condition:
DECEASED
 
Discharge Instructions:
DECEASED
 
Followup Instructions:
___